US08471005B2
N-(2-{2-[3-(1,4-Dimethyl-3-oxo-piperazin-2-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-N-methyl-methanesulfonamide was prepared from N-[2-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide and 3-(3-amino-phenyl)-1,4-dimethyl-piperazin-2-one in an analogous manner to Example 1052a. Product isolated as a brown foam (72 mg, 46%). LCMS (m/e) 520 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.72 (s, 1H), 7.89-7.82 (m, 1H), 7.54-7.45 (m, 4H), 7.38 (s, 1H), 7.20-7.12 (m, 1H), 7.02-6.92 (m, 2H), 6.89-6.81 (m, 2H), 3.70-3.60 (m, 1H), 3.52 (s, 1H), 3.24-3.15 (m, 1H), 3.11 (s, 3H), 3.01-2.92 (m, 1H), 2.97 (s, 3H), 2.68-2.55 (m, 1H), 2.62 (s, 3H), 2.08 (s, 3H).

reactant | N-[2-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | OC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C14H14N4O3S
reactant | 3-(3-amino-phenyl)-1,4-dimethyl-piperazin-2-one | NC=1C=C(C=CC1)C1C(N(CCN1C)C)=O | C12H17N3O
product | N-(2-{2-[3-(1,4-Dimethyl-3-oxo-piperazin-2-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-N-methyl-methanesulfonamide | CN1C(C(N(CC1)C)=O)C=1C=C(C=CC1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C26H29N7O3S
